Name:  ___.                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / erythromycin base / Bactrim / Nitroimidazoles / 
Tetracyclines
 
Attending: ___
 
___ Complaint:
Slow transit constipation
 
Major Surgical or Invasive Procedure:
Laparoscopic total proctocolectomy and end ileostomy

 
History of Present Illness:
Ms. ___ is a ___ year old female who was referred to the 
colorectal surgery service by her gastroenterologist Dr. ___. 
Ms. ___ has a long history of slow transit constipation and 
pelvic floor dysfunction. She newly developed rectal prolapse 
with some aspect of fecal incontinence. She continued to be 
symptomatic in regards to her constipation despite aggressive 
treatment. She was thus scheduled for a total proctocolectomy 
and end ileostomy.
 
Past Medical History:
PAST MEDICAL HISTORY:
1.  COlon inertia/PFD.
2.  Weight loss.
3.  Vitamin D deficiency.
4.  Psoriasis.
5.  Breast cancer, bilateral.
6.  Colon polyps.
7.  IgG deficiency.-needs capsule study
8.  Anxiety.
9.  Long history of iron deficiency as a child.
10.  SIBO, rifaximin week ___ month ___..
11.  Food fear, wt loss- plan MRA ___

PAST SURGICAL HISTORY:
1.  Botox in ___, sphincterotomy as a child.
2.  Left mastectomy, right mastectomy.
3.  Colonoscopy in ___, colon polyps.
4.  Endoscopy in ___, HP negative.  No biopsies.
 
Social History:
___
Family History:
Her father had colon cancer and pancreatic cancer and died at 
___.  Mother died of heart disease at ___.
 
Physical Exam:
Discharge Physical Exam:

VS: T: 99.9 BP: 104/64 HR: 74 RR: 18 O2: 94%/RA 
GEN: WD, WN in NAD
HEENT: NCAT, EOMI, anicteric
CV: RRR, No JVD
PULM:  normal excursion, no respiratory distress
ABD: soft, NT, ND, no mass, no hernia. 
PELVIS:
EXT: WWP, trace edema, 2+ B/L radial
NEURO: A&Ox3, no focal neurologic deficits
PSYCH: normal judgment/insight, normal memory, normal 
mood/affect
WOUND: Dry & intact, no erythema.
 
Pertinent Results:
___ 06:57AM BLOOD WBC-6.7 RBC-3.19* Hgb-10.3* Hct-31.4* 
MCV-98 MCH-32.3* MCHC-32.8 RDW-14.5 RDWSD-52.2* Plt ___
___ 04:57PM BLOOD WBC-10.9* RBC-3.68* Hgb-11.8 Hct-36.1 
MCV-98 MCH-32.1* MCHC-32.7 RDW-14.4 RDWSD-51.8* Plt ___
___ 06:54AM BLOOD Glucose-90 UreaN-6 Creat-0.4 Na-135 K-4.5 
Cl-99 HCO3-24 AnGap-12
___ 06:57AM BLOOD Glucose-83 UreaN-6 Creat-0.5 Na-138 K-4.0 
Cl-99 HCO3-24 AnGap-15
___ 04:57PM BLOOD Glucose-153* UreaN-8 Creat-0.5 Na-142 
K-4.2 Cl-103 HCO3-27 AnGap-12
___ 06:54AM BLOOD Calcium-8.0* Phos-3.3 Mg-1.9
___ 06:57AM BLOOD Calcium-7.8* Phos-3.6 Mg-1.8
___ 04:57PM BLOOD Calcium-8.5 Phos-3.9 Mg-2.4

Pathology pending on discharge 
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for a 
total proctocolectomy and end ileostomy. She tolerated the 
procedure well without complications (Please see operative note 
for further details). After a brief and uneventful stay in the 
PACU, the patient was transferred to the floor for further 
post-operative management.

Neuro: Pain was well controlled on Tylenol and oxycodone for 
breakthrough pain. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Her blood 
pressure runs soft at baseline (high 80's- low 90's).

Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.

GI: The patient was initially kept NPO after the procedure. The 
patient was later advanced to and tolerated a regular diet at 
time of discharge. Patient's intake and output were closely 
monitored

GU: The patient had a Foley catheter that was removed at time of 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.

ID: The patient was closely monitored for signs and symptoms of 
infection and fever of which there was none. 

Heme: The patient had blood levels checked daily during their 
hospital course to monitor for signs of bleeding. The patient 
received subcutaneous heparin and ___ dyne boots were used 
during this stay, she was encouraged to get up and ambulate as 
early as possible. The patient is being discharged on a 
prophylactic dose of Lovenox. 

On ___, the patient was discharged to home. At discharge, 
she was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.

Post-Surgical Complications During Inpatient Admission:

[ ] Post-Operative Ileus resolving w/o NGT
[ ] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[x] None

Social Issues Causing a Delay in Discharge:

[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Pantoprazole 40 mg PO Q24H 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO TID  
2.  Enoxaparin Sodium 40 mg SC DAILY 
RX *enoxaparin 40 mg/0.4 mL 40 mg SC Daily Disp #*29 Syringe 
Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
Please take lowest effective dose 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*14 Tablet Refills:*0 
4.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Slow transit constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital after a total proctocolectomy 
and end ileostomy for surgical management of your slow transit 
constipation. You have recovered from this procedure well and 
you are now ready to return home. Samples of tissue were taken 
and this tissue has been sent to the pathology department for 
analysis. You will receive these pathology results at your 
follow-up appointment. If there is an urgent need for the 
surgeon to contact you regarding these results they will contact 
you before this time. You have tolerated a regular diet, are 
passing gas and your pain is controlled with pain medications by 
mouth. You may return home to finish your recovery.

You have a new ileostomy. The most common complication from a 
new ileostomy placement is dehydration. Stool is no longer 
passing through the large intestine which is where water is 
reabsorbed into the body and the stool becomes formed. However, 
the output from your stoma (intestine that protrudes outside of 
your abdomen) will be watery because it is coming from the small 
intestine which means the water is not reabsorbed by the colon. 
You must measure your ileostomy output for the next few weeks. 
The output should not be more than 1200cc or less than 500cc. If 
you find that your output has become too much or too little, 
please call the office. The office nurse or nurse practitioner 
can recommend medications to increase or slow the ileostomy 
output. Keep yourself well hydrated, if you notice your 
ileostomy output increasing, drink liquids with electrolytes 
such as Gatorade.  Please monitor for signs and symptoms of 
dehydration including: dry mouth or tongue, decrease in 
urination, urine darker in color, dizziness especially when you 
stand, cramps in your abdomen or legs, increased thirst, or 
weakness. If you notice these symptoms please call the office or 
return to the emergency room for evaluation if these symptoms 
are severe. You may eat a regular diet with your new ileostomy. 
However, it is a good idea to avoid fatty or spicy foods and 
follow diet suggestions made to you by the ostomy nurses.

___ monitor the appearance of your stoma and care for it as 
instructed by the ostomy nurses. ___ stoma should be beefy red 
or pink, it may ooze small amounts of blood at times when 
touched but this will improve over time. The skin around the 
ostomy site should be kept clean and intact. Monitor the skin 
around the stoma for any bulging or signs of infection listed 
above. You will be able to make an appointment with the ostomy 
nurse in the clinic ___ weeks after surgery. Please call the 
ostomy nurses clinic number which is listed in the 
ileostomy/colostomy handout packet given to you by the nursing 
staff. You will also have a visiting nurse at home for the next 
few weeks to help to monitor your ostomy until you are 
comfortable caring for it on your own.

If you have any of the following symptoms please call the office 
for advice ___:

fever greater than 101.5
increasing abdominal distension
increasing abdominal pain
nausea/vomiting
inability to tolerate food or liquids
prolonged loose stool
extended constipation
inability to urinate

Incisions:

You have ___ laparoscopic surgical incisions on your abdomen 
which are closed with internal sutures. These are healing well, 
however, it is important that you monitor these areas for signs 
and symptoms of infection including: increasing redness of the 
incision lines, white/green/yellow/malodorous drainage, 
increased pain at the incision, increased warmth of the skin at 
the incision, or swelling of the area.

You may shower; pat the incisions dry with a towel, do not rub. 
The small incisions may be left open to the air. If you have 
steri-strips (small white strips), they will fall off over time, 
please do not remove them. Please no baths or swimming until 
cleared by the surgical team.

Pain

It is expected that you will have pain after surgery and this 
pain will gradually improve over the first week or so you are 
home. You will especially have pain when changing positions and 
with movement. You should continue to take 2 Extra Strength 
Tylenol (___) for pain every 8 hours around the clock. Please 
do not take more than 3000mg of Tylenol in 24 hours or any other 
medications that contain Tylenol such as cold medication. Do not 
drink alcohol while or Tylenol.  You may also take Advil 
(Ibuprofen) 600mg every 8 hours for 7 days, please take Advil 
with food. If these medications are not controlling your pain to 
a point where you can ambulate and perform minor tasks, you 
should take a dose of the narcotic pain medication oxycodone. 
Please take this only if needed for pain. Do not take with any 
other sedating medications or alcohol. Do not drive a car if 
taking narcotic pain medications.

Activity

You may feel weak or "washed out" for up to 6 weeks after 
surgery. No heavy lifting greater than a gallon of milk for 3 
weeks. At your first follow up appointment, your surgical team 
will clear you for heavier exercise and activity as they observe 
your progress.  In the meantime, you may climb stairs, and go 
outside and walk.  Please avoid traveling long distances until 
you speak with your surgical team at your post-op visit.  Again, 
please do not drive while taking narcotic pain medications. 

You will be discharged home on Lovenox injections to prevent 
blood clots after surgery. You will take this for 30 days after 
your surgery date, please finish the entire prescription. This 
will be given once daily. Please follow all nursing teaching 
instruction given by the nursing staff. Please monitor for any 
signs of bleeding: fast heart rate, bloody bowel movements, 
abdominal pain, bruising, feeling faint or weak. If you have any 
of these symptoms please call our office for advice or seek 
medical attention if there is an emergency. Avoid any contact 
activity while taking Lovenox. Please take extra caution to 
avoid falling.

Our hope is that you will have a quick return to your life and 
usual activities. Thank you for allowing us to participate in 
your care! 

 
Followup Instructions:
___